US04996318
Pyrrolidine (28.5 g) is cooled with an ice bath. 1,3,5-Trichlorotriazine (18.4 g) is added with vigorous stirring. After 1-1.5 h the mixture is permitted to warm to 20-25°. The solid is filtered and rinsed several times with water and dried under reduced pressure to give the monochloro-bis(1-pyrrolidinyl)triazine.

reactant | Pyrrolidine | 28.5 g | N1CCCC1 | C4H9N
reactant | 1,3,5-Trichlorotriazine | 18.4 g | ClN1NN(CC(=C1)Cl)Cl | C3H4Cl3N3
product | monochloro-bis(1-pyrrolidinyl)triazine | ClC=1C(=NN=NC1N1CCCC1)N1CCCC1 | C11H16ClN5
